US07504412B2
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide and 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid, to provide N-(2-cyclopropylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide as white solid.

reactant | 2-cyclopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide | Br.C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1
reactant | 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
product | N-(2-cyclopropylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide | C1(CC1)C=1N=C2N(C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1 | C24H18F3N3O
